US06525068B1
(1S,2S)-2-(2-Bromophenoxy)-1,2,-dihydro-naphthalen-1-ol (13):
To a flame dried round-bottomed flask, [Rh(COD)Cl]2 (1.7 mg, 0.0035 mmol), (S)-(R)-PPF-PtBu2 (3.8 mg, 0.0069 mmol) and 1 (100 mg, 0.694 mmol) were added followed by addition of THF (2.5 mL) and 2-bromophenol (0.40 mL, 3.47 mmol). The mixture was heated at 80° C. for 24 hours, then poured into diethyl ether and extracted 3 times with 10% aqueous sodium hydroxide solution. The aqueous extracts were combined and back-extracted three times with diethyl ether. The combined ether extracts were washed with brine and dried with anhydrous sodium sulfate. The solvents were removed in vacuo, yielding a solid which was purified by flash chromatography on silica gel (5% ethyl acetate in hexanes) as a white crystalline solid 13 (75 mg, 37%). The ee was determined to be 81% by HPLC analysis on a CHIRALCEL OD column, λ=486 nm. Retention times in 1.5% isopropanol in hexanes were 22.8 min and 32.1 min (major). Rf=0.44 on silica (20% ethyl acetate in hexanes); mp 120-122° C. (Et2O); [α]25D=+254° (c=9.2, CHCl3). IR (KBr, cm−1) 3341 (br), 3071 (w), 2884 (w), 1581 (m), 1472 (s), 1358 (m), 1237 (s), 1028 (s), 987 (s), 780 (s), 689 (m), 569 (m); 1H NMR (400 MHz, CDCl3): δ7.67 (1H, d J=6.8 Hz), 7.58 (1H, dd, J=1.5, 7.9 Hz), 7.33-7.23 (3H, m), 7.14-7.12 (1H, m), 6.95(1H, dd, J=1.1, 8.2 Hz), 6.92-6.87 (1H, m), 6.52 (1H, dd, J=2.0, 9.9 Hz), 6.06 (1H, dd, J=1.8, 9.9 Hz), 5.32 (1H, d, J=11.0 Hz), 5.10 (1H, ddd, J=2.0, 2.0, 11.0 Hz), 2.85 (1H, d, J=3.2 Hz). 13C NMR (400 MHz, CDCl3): δ154.3, 135.4, 133.6, 131.8, 129.1, 128.6, 128.3, 128.0, 126.4, 126.0, 124.9, 122.9, 115.6, 113.5, 82.2, 72.5. HRMS calculated for (M-H2O)+ (C16H11OBr): 297.9993. Found: 297.9976.

reactant | THF | 2.5 mL | C1CCOC1 | C4H8O
reactant | 2-bromophenol | 3.47 mmol, 0.40 mL | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | diethyl ether | C(C)OCC | C4H10O
product | (1S,2S)-2-(2-Bromophenoxy)-1,2,-dihydro-naphthalen-1-ol | BrC1=C(O[C@@H]2[C@H](C3=CC=CC=C3C=C2)O)C=CC=C1 | C16H13BrO2
